US06881736B1
d) Ethyl (±)-4-(4-methoxyphenyl)-3-[4-(trifluoromethyl)phenyl]butanoate
To a suspension of 10% Pd/C (600 mg) in absolute EtOH (50 mL) was added ethyl (±)-4-(4-methoxyphenyl)-3-[4(trifluoromethyl)phenyl]crotonate (2.2 g. 6 mmole), and the mixture was shaken on a Parr apparatus at RT under H2 (50 psi). After 4 hr, the mixture was filtered through a pad of celite®, and the filtrate was concentrated. This reaction sequence was repeated three times. The residue was chromatographed on silica gel (35% EtOAc/hexanes) to afford the title compound (900 mg, 56%) as an oil: TLC (5% EtOAc/hexanes) Rf0.46; 1H NMR (300 MHz, CDCl3) δ 7.51 (d, J=8.2 Hz, 2 H), 7.24 (d, J=8.2 Hz, 2 H), 6.94 (d, J=8.7 Hz, 2 H), 6.76 (d, J=8.7 Hz, 2 H), 3.99 (q, J=7.1 Hz, 2 H), 3.76 (s, 3H), 3.35-3.50 (m, 1 H), 2.75-2.93 (m, 2H), 2.69 (dd, J=15.6, 6.4 Hz, 1 H), 2.60 (dd, J=15.6, 8.9 Hz, 1H), 1.11 (t, J=7.1 Hz 3 H).

reactant | ethyl (±)-4-(4-methoxyphenyl)-3-[4(trifluoromethyl)phenyl]crotonate | 6 mmole, 2.2 g | COC1=CC=C(C=C1)C/C(=C/C(=O)OCC)/C1=CC=C(C=C1)C(F)(F)F | C20H19F3O3
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | Ethyl (±)-4-(4-methoxyphenyl)-3-[4-(trifluoromethyl)phenyl]butanoate | 900 mg, 56% | COC1=CC=C(C=C1)CC(CC(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C20H21F3O3
